US08536179B2
To a cooled (0° C.) mixture of 6-(2-dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid (400 mg, 1.37 mmol) in DMF (10 mL) was added EDC.HCl (310 mg, 1.65 mmol) and HOBt.H2O (250 mg, 1.65 mmol). The reaction was stirred for 15 min, then DIPEA (1.2 mL, 6.89 mmol) and 3-aminomethyl-6-methyl-4-propyl-1H-pyridin-2-one (240 mg, 1.37 mmol) were added. The reaction was allowed to warm to RT and stirred for 16 h, at which time it was diluted with water (20 mL) and extracted with DCM (2×15 mL). The combined DCM layer was dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography eluting with 3% MeOH in chloroform and then further purified by preparative HPLC to furnish 6-(2-dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid (6-methyl-2-oxo-4-propyl-1,2-dihydro-pyridin-3-ylmethyl)-amide (120 mg, 19%) as an off white solid. 1H NMR (400 MHz, DMSO-d6): δ 0.92-0.88 (t, 3H), 1.43-1.41 (d, J=6.8 Hz, 6H), 1.56 (m, 2H), 2.12 (s, 3H), 2.22 (s, 6H), 2.55-2.53 (m, 2H), 2.06 (m, 2H), 4.11-4.09 (t, 2H), 4.36-4.34 (d, J=4.8 Hz, 2H), 4.76-4.73 (m, 1H), 5.90 (s, 1H), 6.74-6.73 (d, J=2.8 Hz, 1H), 7.04 (s, 1H), 7.20 (s, 1H), 7.43-7.42 (d, J=3.2 Hz, 1H), 8.10-8.07 (bs, 1H), 11.55 (bs, 1H). LCMS (ES+): m/z=453.23 [M+H].

reactant | 6-(2-dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid | 1.37 mmol, 400 mg | CN(CCOC=1C=C(C=2C=CN(C2C1)C(C)C)C(=O)O)C | C16H22N2O3
reactant | EDC.HCl | 1.65 mmol, 310 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 6.89 mmol, 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-aminomethyl-6-methyl-4-propyl-1H-pyridin-2-one | 1.37 mmol, 240 mg | NCC=1C(NC(=CC1CCC)C)=O | C10H16N2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
solvent | H2O | 1.65 mmol, 250 mg | O | H2O
product | 6-(2-dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid (6-methyl-2-oxo-4-propyl-1,2-dihydro-pyridin-3-ylmethyl)-amide | 120 mg, 19% | CC1=CC(=C(C(N1)=O)CNC(=O)C=1C=2C=CN(C2C=C(C1)OCCN(C)C)C(C)C)CCC | C26H36N4O3
